Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
E-Mycin / Prilosec
 
Attending: ___.
 
Chief Complaint:
Fatigue

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with a compensated past medical history including a MVC with 
polytrauma, s/p trach, PEG and splenctomy, HTN, CVA, CAD s/p 2 
stents, A. Fib (CHADS2 4) on coumadin presenting from 
rehabilitation with weakness and hematuria. 

History obtained primarily from ___, ED notes. 

For the past week the patient is reportedly feeling much more 
fatigued and weak unable to cooperate with therapy which is a 
distinct change from his baseline. He was recently started on 
Coumadin and has had blood ___ his urine since that time. Family 
says patient denies any chest pain. Cough maybe mildly increased 
with mild increase ___ sputum. Patient has chronic foley. Has 
been able to tolerate POs. 

___ the ED, initial vitals noted to be 98.8 87 137/70 28 99%. 
Labs notable for WBC of 18.1 without bands, INR 3.3. BUN/Cr of 
36 and 0.7 and UA with >182 WBC and Moderate Leuks. CXR without 
significant change of bilateral pleural effusion but difficult 
to assess for infectious etiology. CT head without acute 
changes. Ceftriaxone was started ___ the ED.  

___ the unit, the patient is awake and responsive. He knows his 
name and that he is at ___. He says he feels better. No 
dyspnea. Currently no pain. 

 
Past Medical History:
-MVA ___ - "open book pelvic fracture", RP hematoma, splenic
laceration s/p splenectomy, and ?L-kidney lac vs. ruptured
cyst
-CVA bleed ___ right putamen intraparenchymal hemorrhage
-Osteoarthritis
-Gout
-Prostate Ca s/p XRT and Lupron
-CAD s/p PTCA and 2 stents
-Glaucoma
-Mild hearing impairment
-Non-toxic goiter
-Hypertension
-Hypercholesterolemia
-Hiatal hernia 
-GERD
-Mild irritable bowel syndrome
-History of intestinal polyps (benign)
-Hemorrhoids

 
Social History:
___
Family History:
Sister with breast CA. No known family history of strokes, 
hemorrhages, or other neurologic problems.

 
Physical Exam:
On Admission:
Vitals - 98, 117, 159/76, 35, 100% on 35% trachmask
General: A&Ox2 to name and place. CN II-XII intact.   
HEENT: Sclera anicteric, MM dry
Lungs: ronchi throughout
CV: irregularly irregular, tachycardic
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly. J tube side 
c/d/i
CVA: mild tenderness with palpation  
GU: + foley  
Ext: 2+ edema up to thighs
.
On Discharge:
139/80  HR 99
 
Pertinent Results:
ADMISSION LABS:
___ 03:00PM BLOOD WBC-18.1*# RBC-3.59*# Hgb-12.3*# 
Hct-37.0*# MCV-103* MCH-34.3* MCHC-33.3# RDW-15.1 Plt ___
___ 03:00PM BLOOD Neuts-54.0 ___ Monos-5.4 Eos-6.2* 
Baso-0.4
___ 03:43PM BLOOD ___ PTT-43.7* ___
___ 03:00PM BLOOD Glucose-112* UreaN-36* Creat-0.7# Na-141 
K-4.2 Cl-104 HCO3-27 AnGap-14
___ 03:00PM BLOOD ALT-38 AST-24 AlkPhos-182* TotBili-0.3
___ 03:00PM BLOOD Albumin-3.0* Calcium-9.1 Phos-4.1 Mg-2.1
___ 03:09PM BLOOD Lactate-1.7
.
DISCHARGE LABS:
___ 01:01AM BLOOD WBC-17.7* RBC-3.42* Hgb-11.2* Hct-33.7* 
MCV-99* MCH-32.7* MCHC-33.2 RDW-14.1 Plt ___
___ 01:01AM BLOOD ___ PTT-106.7* ___
___ 01:01AM BLOOD Glucose-152* UreaN-30* Creat-0.5 Na-138 
K-3.8 Cl-105 HCO3-24 AnGap-13
. 
MICRO LAB:
___ 3:45 URINE   **FINAL REPORT ___
- URINE CULTURE (Final ___:  STAPHYLOCOCCUS, COAGULASE 
NEGATIVE.    >100,000 ORGANISMS/ML.. **** SENSITIVITIES ORDERED 
& PENDING ****
.
___ 6:53 pm SPUTUM      Source: Endotracheal. 
  GRAM STAIN (Final ___: 
      ___ PMNs and <10 epithelial cells/100X field. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI. 

   RESPIRATORY CULTURE (Preliminary): 
      SPARSE GROWTH Commensal Respiratory Flora. 
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH. 
.
IMAGING:
- CT Head noncontrast ___ IMPRESSION:  No evidence of 
intracranial hemorrhage. 
.
- CXR ___  IMPRESSION:  
No significant interval change of bilateral pleural effusions. 
These limit evaluation for underlying parenchymal 
opacity/possibility of infection. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with history of HTN, CAD s/p 2 
stents, hemorrhagic CVA ___ ___, A. Fib (CHADS2 4), trach and 
chronic vent requirement at night presents with altered mental 
status and UTI. 

Patient presented with sepsis likely from urinary source. Urine 
grossly positive growing >100,000 coag negative staph. Exchanged 
Foley. CXR with bilateral effusions that appear stable and there 
does not appear to have been recent increased O2 demand or vent 
changes or increased productive cough to suggest PNA. 

Started Ceftriaxone for UTI on ___ and added Vancomycin on 
___ once urine grew coag negative staph until sensitivities
.
# Encephalopathy, acute toxic metabolic. Due to UTI. Mental 
status improved while ___ ICU. Patient ___ ICU only because 
requires the vent.
.
# A. Fib with RVR with history of DVT. CHADS2 4 for age, HTN, 
stroke. INR 2.9 at time of discharge, ___. Decreased 
warfarin to 2.5mg daily. Continued metoprolol 25 TID and Digoxin 
0.125mcg MWF. 
.
# Ventilatory requirement. Patient is vented QHS. Vent settings: 
AC Vt 450, RR 10, PEEP 2, FiO2 30 at night. Trach mask with 35% 
O2 during the day. GIven Albuterol INH to 6 PUFFS q4H PRN and 
continued ipratropium  6 PUFFS Q8H w/ acetylcysteine 100 mg/mL 
(10 %) via trach BID. (Respiratory therapy reports vent alarming 
for cuff leak. Pt with reported 8.0 bovina. Notes reviewed, 
trached ___ ___ OR, open, with initial placement of an 8.0 
shiley. ___ require trach change.)
.
# CAD. Patient is status post 2 stents, uncertain when they were 
placed and what location. Though he does not appear to have been 
on Plavix during the last hospitalization. Patient was on ASA 
162mg daily at OSH, uncertain why that dose. Continued metprolol 
25mg TID and ASA 162mg daily
.
# HTN: Continued metoprolol 25mg TID and Furosemide 20mg daily
.
# HLD: Continued Ezetimibe 10mg DAILY 
.
# Gout: Continued Allopurinol ___ mg daily Colchicine 0.6mg MWF
.
# Hematuria: Likely due to UTI.
- consider repeat U/A once clears infection; if hematuria 
persistent on subsequent repeat 6 weeks later, would need 
work-up of hematuria which traditionally includes CT urogram and 
cystoscopy
.
# Communication: ___ (wife, HCP) ___, 
___ 
# Code: FULL confirmed
.
### TRANSITIONAL ISSUES:
- if he declares more of a PNA picture would start meropenem and 
vancomycin as his last pseduomona was resistant to cefepime and 
zosyn. Micro data is attached. 
- f/u urine culture sensitivities of coag neg Staph (requested 
___
- consider repeat U/A once clears infection; if hematuria 
persistent on subsequent repeat 6 weeks later, would need 
work-up of hematuria which traditionally includes CT urogram and 
cystoscopy
- INR 2.9 at time of discharge, ___. Needs INR rechecked 
___ and coumadin adjusted as needed with close follow up 
while on antibiotics.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 6 PUFF IH Q8H wheezing/poor oxygation 
2. Artificial Tears ___ DROP BOTH EYES PRN Dry eyes 
3. Aspirin 162 mg PO DAILY 
4. Ipratropium Bromide MDI 6 PUFF IH Q8H wheezing/poor 
oxygenation 
5. QUEtiapine Fumarate 12.5 mg PO QHS 
6. Warfarin 5 mg PO DAILY 
7. Ezetimibe 10 mg PO DAILY 
8. acetylcysteine 100 mg/mL (10 %) via trach BID 
9. Lidocaine 5% Patch 1 PTCH TD QAM 
10. ClonazePAM 0.5 mg PO Q6H:PRN anxiety 
11. Colchicine 0.6 mg PO 3X/WEEK (___) 
12. Furosemide 20 mg PO DAILY 
13. Digoxin 0.125 mg PO 3X/WEEK (___) 
14. melatonin 3 mg oral qHS 
15. Allopurinol ___ mg PO DAILY 
16. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
17. Dilaudid (HYDROmorphone) 0.5 mg oral TID pain 
18. HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN pain 
19. Metoprolol Tartrate 25 mg PO TID 
20. Bisacodyl ___AILY:PRN constipation 
21. Acetaminophen 650 mg PO Q6H:PRN pain 
22. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
23. Hydrocerin 1 Appl TP BID:PRN dry skin 
24. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Albuterol Inhaler 6 PUFF IH Q8H wheezing/poor oxygation 
3. Allopurinol ___ mg PO DAILY 
4. Artificial Tears ___ DROP BOTH EYES PRN Dry eyes 
5. Aspirin 162 mg PO DAILY 
6. Bisacodyl ___AILY:PRN constipation 
7. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
8. Colchicine 0.6 mg PO 3X/WEEK (___) 
9. Digoxin 0.125 mg PO 3X/WEEK (___) 
10. Ezetimibe 10 mg PO DAILY 
11. Furosemide 20 mg PO DAILY 
12. HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg 1 tablet(s) by mouth every 
four (4) hours Disp #*10 Tablet Refills:*0
13. Ipratropium Bromide MDI 6 PUFF IH Q8H wheezing/poor 
oxygenation 
14. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
15. Lidocaine 5% Patch 1 PTCH TD QAM 
16. Metoprolol Tartrate 25 mg PO TID 
17. Multivitamins 1 TAB PO DAILY 
18. QUEtiapine Fumarate 12.5 mg PO QHS 
19. Warfarin 2.5 mg PO DAILY16 
20. CeftriaXONE 1 gm IV Q24H UTI 
21. Vancomycin 1000 mg IV Q 12H 
22. acetylcysteine 100 mg/mL (10 %) via trach BID 
23. ClonazePAM 0.5 mg PO Q6H:PRN anxiety 
RX *clonazepam 0.5 mg 0.5 (One half) tablet(s) by mouth every 
six (6) hours Disp #*5 Tablet Refills:*0
24. HYDROmorphone (Dilaudid) (HYDROmorphone) 0.5 mg ORAL TID 
pain 
hold for sedation 
RX *hydromorphone [Dilaudid] 2 mg 0.5 (One half) mg by mouth 
three times a day Disp #*5 Tablet Refills:*0
25. melatonin 3 mg oral qHS 
26. Hydrocerin 1 Appl TP BID:PRN dry skin 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Urinary Tract Infection
Encephalopathy, acute toxic metabolic

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Mr. ___, 
You were hospitalized at ___ for urinary tract 
infection that caused you to be sleepy and confused. You were ___ 
the intensive care unit because you use the ventilator at night. 
You were given antibiotics which will be continued at ___ 
___.
 
Followup Instructions:
___